US05532255
A mixture of 2.96 g of 3-(4-cyanophenyl)-5-methanesulfonyloxymethyl-2-oxazolidinone (m.p. 162°-163°; obtainable by reacting 4-aminobenzonitrile with 2,3-epoxypropanol to give 4-(2,3-dihydroxypropylamino)benzonitrile (oily), reacting with diethyl carbonate/potassium tert-butylate at 110° to give 3-(4-cyanophenyl)-5-hydroxymemthyl-2-oxazolidinone (m.p. 130°-131°) and esterifying with methanesulfonyl chloride), 1.69 g of ethyl piperidine-4-carboxylate, 70 ml of acetonitrile, 1.38 g of potassium carbonate and 1.65 g of potassium iodide is boiled for 25 h. After customary working up, ethyl 1-(3-(4-cyanophenyl)-2-oxo-5-oxazolidinylmethyl)piperidine-4-carboxylate ("IA") is obtained, FAB 358.

reactant | 3-(4-cyanophenyl)-5-methanesulfonyloxymethyl-2-oxazolidinone | 2.96 g | C(#N)C1=CC=C(C=C1)N1C(OC(C1)COS(=O)(=O)C)=O | C12H12N2O5S
reactant | ethyl piperidine-4-carboxylate | 1.69 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.65 g | [I-].[K+]
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | ethyl 1-(3-(4-cyanophenyl)-2-oxo-5-oxazolidinylmethyl)piperidine-4-carboxylate | C(#N)C1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)C(=O)OCC)=O | C19H23N3O4
